US07560478B2
Preparation Example 1 for crystals of methyl 3-[4-(indan-2-yloxy)-3-(1-methyl-1H-indazol-5-yl)-5-nitrophenyl]propionate (Compound 2 of the Invention)
THF (40 ml) was added to methyl 3-[3-bromo-4-(indan-2-yloxy)-5-nitrophenyl]propionate (14.00 g, prepared according to the method of International Patent Publication No. WO 03/70686), 1-methyl-1H-indazol-5-boronic acid (7.62 g, prepared according to the method of International Patent Publication No. WO 03/70686), palladium acetate (75 mg, Wako Pure Chemical Industries, Ltd.) and triphenylphosphine (0.17 g, Wako Pure Chemical Industries, Ltd.), and the mixture solution was stirred. Then, a solution having tripotassium phosphate (16.97 g, Wako Pure Chemical Industries, Ltd.) dissolved in water (27 ml) was added to the above mixture, and the mixture solution was purged with nitrogen. Then, this mixture solution was stirred for 4 hours at 60° C. to react. After confirming the completion of the reaction, the reaction solution was partitioned to obtain the upper layer. The upper layer was cooled to room temperature, ethyl acetate (40 ml) and activated carbon (2.8 g, Japan Envirochemicals, Ltd.) were added thereto, and the mixture solution was further stirred for 1 hour at room temperature. The suspension was filtered to obtain a filtrate, and the residue was washed on the filter with ethyl acetate (20 ml) to obtain the wash solution. The filtrate and the wash solution were combined and concentrated under reduced pressure to obtain a concentrate (44 g). Then, acetone (140 ml) was added to the concentrate. The mixture solution was stirred and water (140 ml) was added thereto over 1 hour while stirring. The mixture solution was further stirred for another 1 hour at room temperature. Then, this mixture solution was filtered, the solids were washed on the filter with water (70 ml), and wet solids were obtained. These wet solids were dried under reduced pressure at 50° C. to obtain crystals of the title compound (15.7 g).

reactant | methyl 3-[3-bromo-4-(indan-2-yloxy)-5-nitrophenyl]propionate | BrC=1C=C(C=C(C1OC1CC2=CC=CC=C2C1)[N+](=O)[O-])CCC(=O)OC | C19H18BrNO5
reactant | 1-methyl-1H-indazol-5-boronic acid | CN1N=CC2=CC(=CC=C12)B(O)O | C8H9BN2O2
reactant | triphenylphosphine | 0.17 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tripotassium phosphate | 16.97 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | water | 27 ml | O | H2O
catalyst | palladium acetate | 75 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | methyl 3-[4-(indan-2-yloxy)-3-(1-methyl-1H-indazol-5-yl)-5-nitrophenyl]propionate | 15.7 g | C1C(CC2=CC=CC=C12)OC1=C(C=C(C=C1[N+](=O)[O-])CCC(=O)OC)C=1C=C2C=NN(C2=CC1)C | C27H25N3O5
